US05561133
α-Aminoisobutyric acid (6.18 g), tert-butyl acetate (200 ml) and 70% aqueous perchloric acid (9.45 g) were stirred at laboratory temperature for 7 days. The mixture was then cooled in an ice-water bath and extracted with 0.5N hydrochloric acid (4×50 ml). The combined aqueous extracts were immediately neutralised with solid sodium bicarbonate. The aqueous solution was extracted with diethyl ether (3×100 ml), the ether extracts pooled, dried over anhydrous sodium sulphate and the ether evaporated in vacuo to give tert-butyl α-methylalanine (4.98 g).

reactant | α-Aminoisobutyric acid | 6.18 g | NC(C(=O)O)(C)C | C4H9NO2
reactant | perchloric acid | 9.45 g | Cl(=O)(=O)(=O)O | ClHO4
solvent | tert-butyl acetate | 200 ml | C(C)(=O)OC(C)(C)C | C6H12O2
product | tert-butyl α-methylalanine | 4.98 g | C(C)(C)(C)NC(C)(C(=O)O)C | C8H17NO2
